US07595312B2
[4-(1-{2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyryl}-piperidin-4-yl)-piperazin-1-yl]-acetic acid
Prepared analogously to Example 16.4 from 108 mg (0.20 mmol) 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid and 51 mg (0.20 mmol) ethyl(4-piperidin-4-yl-piperazin-1-yl)-acetate.

reactant | 2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butanoic acid | 0.20 mmol, 108 mg | NC1=C(C=C(CC(C(=O)O)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1C(F)(F)F)Cl | C25H26ClF3N4O4
reactant | ethyl(4-piperidin-4-yl-piperazin-1-yl)-acetate | 0.20 mmol, 51 mg | C(C)OC(CN1CCN(CC1)C1CCNCC1)=O | C13H25N3O2
product | [4-(1-{2-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyryl}-piperidin-4-yl)-piperazin-1-yl]-acetic acid | NC1=C(C=C(CC(C(=O)N2CCC(CC2)N2CCN(CC2)CC(=O)O)CC(N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)=O)C=C1C(F)(F)F)Cl | C36H45ClF3N7O5
